US06245761B1
Preparation of N-(t-butoxycarbonyl)-4-hydroxy-N-isopropylbutylamine
A solution of 4-hydroxy-N-isopropylbutylamine (3.0 g, 22.8 mmol) in dioxane:water:1N sodium hydroxide (91 ml:28 ml:28 ml) was treated with di(t-butoxycarbonyl)ether (4.98 g, 22.8 mmol). The cloudy reaction mixture was stirred for five hours. The reaction mixture was extracted with methylene chloride. The organic phase was dried, filtered, and concentrated. The desired title product was further purified by high performance liquid chromatography affording 2.6 grams (49%) of a colorless oil.

reactant | 4-hydroxy-N-isopropylbutylamine | 22.8 mmol, 3.0 g | OCCCCNC(C)C | C7H17NO
reactant | water | O | H2O
reactant | sodium hydroxide | 1N, 91 ml | [OH-].[Na+]
reactant | di(t-butoxycarbonyl)ether | 22.8 mmol, 4.98 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-(t-butoxycarbonyl)-4-hydroxy-N-isopropylbutylamine | 2.6 grams, 49% | C(C)(C)(C)OC(=O)N(C(C)C)CCCCO | C12H25NO3
